US06458998B1
4-methylphenyl 3-aminobenzenesulfonate (Compound 5)
To 50 g (0.463 mole) of p-cresol (4-methylphenol) and 37 mL (0.458 mole) of pyridine dissolved in 250 mL of chloroform was added 50 g (0.226 mole) of 3-nitrobenzenesulfonyl chloride. The reaction was allowed to stir at ambient temperature. After 2 hours, the reaction was judged complete by TLC and the volatiles were removed by rotary evaporation. The resulting residue was treated with 400 mL of 0.5 M sodium bicarbonate. The insoluble product was collected and washed with sodium bicarbonate (2 times, 200 mL each) and water (2 times, 300 mL each). The solid was then treated with methanol (200 mL) followed by water (200 mL). The solid was collected by vacuum filtration and washed with water. This solid was treated with 170 g (0.897 mole) of tin (II) chloride dissolved in 250 mL of concentrated HCl. The reaction was allowed to stir at ambient temperature for 40 hours. TLC indicated that the reaction was incomplete, so the reaction was heated at 50 C. for 27 hours. The solid precipitate was collected by vacuum filtration and was washed with 6N HCl. The solid was extracted with ethyl acetate and, water. The ethyl acetate layer was washed with brine, dried with magnesium sulfate, filtered, and the volatiles removed by rotary evaporation to yield 42.5 g of compound as an oil that solidified on standing.

reactant | p-cresol | 0.463 mole, 50 g | C1=CC(=CC=C1O)C | C7H8O
reactant | pyridine | 0.458 mole, 37 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-nitrobenzenesulfonyl chloride | 0.226 mole, 50 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | tin (II) chloride | 0.897 mole, 170 g | [Sn](Cl)Cl
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
solvent | HCl | 250 mL | Cl | ClH
product | 4-methylphenyl 3-aminobenzenesulfonate | 42.5 g | NC=1C=C(C=CC1)S(=O)(=O)OC1=CC=C(C=C1)C | C13H13NO3S
